US04035411
In a manner like that used for the preparation of alpha-bromoethyltriethoxysilane, alpha-bromoamyltriethoxysilane is prepared in two steps from amyltrichlorosilane (commercially available). One-quarter mole of alpha-bromoamyltriethoxysilane (78.5g) is refluxed for 12 hours with 0.25 moles (33.75g) of benzyldimethylamine in 125 ml. of 2-butanone. The product, alpha-(benzyldimethylammonio)ethyltriethoxysilane bromide is isolated by removing the solvent under vacuum.

reactant | alpha-bromoethyltriethoxysilane | BrC(C)[Si](OCC)(OCC)OCC | C8H19BrO3Si
reactant | amyltrichlorosilane | C(CCCC)[Si](Cl)(Cl)Cl | C5H11Cl3Si
reactant | benzyldimethylamine | 0.25 moles, 33.75g | C(C1=CC=CC=C1)N(C)C | C9H13N
solvent | 2-butanone | CC(CC)=O | C4H8O
product | alpha-(benzyldimethylammonio)ethyltriethoxysilane bromide | [Br-].C(C1=CC=CC=C1)[N+](C(C)[Si](OCC)(OCC)OCC)(C)C | InChI=1S/C17H32NO3Si.BrH/c1-7-19-22(20-8-2,21-9-3)16(4)18(5,6)15-17-13-11-10-12-14-17;/h10-14,16H,7-9,15H2,1-6H3;1H/q+1;/p-1
